US06046180
Benzylphosphinic acid
Benzyl[2,4-di(benzyloxycarbonyl)butyl]phosphinic acid(0.5 g, 1.0 mmol) in 20 mL of water containing 120 mg of 10% Pd/C was hydrogenated on a Parr hydrogenator at 40 psi for 6 hours. Filtration through a Celite pad followed by evaporation on high vacuum gave 0.17 g (57%) of 2-[(benzylhydroxyphosphinyl)methyl]pentanedioic acid(4,R=CH2Ph) as a white solid. 1H NMR (D2O): 7.1 ppm(m,5H), 2.9 ppm(d,2H), 2.4 ppm(m,1H), 2.1 ppm(t,2H), 1.8 ppm(m,1H), 1.6 ppm(m,3H) Elemental Analysis, Calculated C13H17O6P: C52.00H5.71: Found: C51.48H5.70

reactant | Benzyl[2,4-di(benzyloxycarbonyl)butyl]phosphinic acid | 1.0 mmol, 0.5 g | C(C1=CC=CC=C1)P(O)(=O)CC(CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H29O6P
solvent | water | 20 mL, 120 mg | O | H2O
catalyst | Pd/C | [Pd] | Pd
product | Benzylphosphinic acid | C(C1=CC=CC=C1)P(O)=O | C7H9O2P
